US07112698B2
(E)-1-(3-hydroxy-4-ethoxyphenyl)-3-(3,5-dimethoxyphenyl)prop-1-en-3-one (DMU-184)
A mixture of 3-hydroxy-4-ethoxybenzaldehyde (0.413 g, 2.5 mmol), 3,5-dimethoxyacetophenone (0.448 mg, 2.5 mmol) and 50% w/v of aqueous sodium hydroxide (3.98 ml, 0.049 mol) in methanol (5 ml) at room temperature for 18 h. The yellow solid that precipitated was filtered and sequentially washed with cold methanol and ether and finally dried in a vacuum dessicator. Purification by column chromatography (SiO2, petroleum:ether (40:60 v/v) with an increasing gradient of ethyl acetate) yielded 0.29 g (36%) of a yellow solid. 1H-NMR (CDCl3) δ 7.7 (d, 1H), 7.2 (m, 2H), 7.1 (d, 3H), 6.8 (d, 1H), 6.5 (t, 1H), 5.7 (s, 1H), 4.1 (q, 2H), 3.9 (s, 6H), 1.4 (t, 3H). 13C-NMR (CDCl3) δ 190.1, 160.9, 148.2, 146.1, 144.9, 140.6, 128.5, 122.7, 120.3, 113.1, 111.4, 106.3, 105.0, 64.7, 55.7, 14.8. Mass Spectrum m/e (M+1) 329. Anal. Calcd. for C19H20O5.0.5H2O: C, 69.5; H, 6.14. Found C, 69.62; H, 6.16.

reactant | 3-hydroxy-4-ethoxybenzaldehyde | 2.5 mmol, 0.413 g | OC=1C=C(C=O)C=CC1OCC | C9H10O3
reactant | 3,5-dimethoxyacetophenone | 2.5 mmol, 0.448 mg | CC(=O)C1=CC(=CC(=C1)OC)OC | C10H12O3
reactant | sodium hydroxide | 0.049 mol, 3.98 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (E)-1-(3-hydroxy-4-ethoxyphenyl)-3-(3,5-dimethoxyphenyl)prop-1-en-3-one | 0.29 g, 36% | OC=1C=C(C=CC1OCC)\C=C\C(=O)C1=CC(=CC(=C1)OC)OC | C19H20O5
